US07618960B2
Synthesis of (Z)-4-(4-fluorobenzyl)-2-[1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6,6-dimethyl morpholin-3-one
44.7 mg of the title compound was obtained from 4-(4-fluorobenzyl)-2-hydroxy-6,6-dimethylmorpholin-3-one, thionyl chloride, triphenylphosphine, and 3-fluoro-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde in the same manner as in Example 7.

reactant | 4-(4-fluorobenzyl)-2-hydroxy-6,6-dimethylmorpholin-3-one | FC1=CC=C(CN2C(C(OC(C2)(C)C)O)=O)C=C1 | C13H16FNO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluoro-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | FC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C11H9FN2O
product | (Z)-4-(4-fluorobenzyl)-2-[1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6,6-dimethyl morpholin-3-one | 44.7 mg | FC1=CC=C(CN2C(/C(/OC(C2)(C)C)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)F)=O)C=C1 | C24H23F2N3O2
